US05599829
2-Ethylsulfanyl-3-(5-fluoro-2-methylphenyl)-3,5-dihydroimidazol-4-one
A mixture of 2-[3-(5-fluoro-2-methylphenyl)-thioureido]-acetamide (6.0 g), ethyl iodide (15.6 g), and ethanol (120 mL) was heated at reflux for 4 hours. The solvent was evaporated. The residue was treated with ethyl acetate (400 mL) and filtered. The filtrate was washed with water (300 mL). The organic phase was evaporated to dryness. The residue was dissolved in ethanol. The solution was saturated with hydrogen chloride. The solvent was evaporated and the residue was crystallized from ethyl acetate and dried under vacuum to give the mono-hydrochloride of the title compound as a white solid (4.2 g), m.p. 181°-183° C. Anal. Calcd. for. C12H13F N2O S. HCl: C, 49.91; H, 4.89; N, 9.70. Found: C, 49.83; H, 4.82; N, 9.71. Mass spectrum (+FAB,[M+H]+) m/z 253. 1H-NMR (DMSO-d6 ; 400 MHz) δ7.50-8.45 (broad s, 2H), 7.45 (m, 1H), 7.27-7.34 (m, 2H), 4.48 (q, 2H), 3.21 (m, 2H), 2.10 (s, 3H), and 1.29 ppm (t, 3H).

reactant | 2-[3-(5-fluoro-2-methylphenyl)-thioureido]-acetamide | 6.0 g | FC=1C=CC(=C(C1)NC(NCC(=O)N)=S)C | C10H12FN3OS
reactant | ethyl iodide | 15.6 g | C(C)I | C2H5I
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 2-Ethylsulfanyl-3-(5-fluoro-2-methylphenyl)-3,5-dihydroimidazol-4-one | 4.2 g | C(C)SC1=NCC(N1C1=C(C=CC(=C1)F)C)=O | C12H13FN2OS
